US08859577B2
2,6-Dichloronicotinic acid (1.20 g, 6.25 mmol), 3-(tert-butoxycarbonyl)benzene boronic acid (2.08 g, 9.10 mmol), potassium carbonate (2.60 g, 18.8 mmol), tetrakis(triphenylphosphine)palladium (0.72 g, 0.62 mmol), degassed 1,2-dimethoxyethane (30 mL) and water (0.5 mL) were combined under an argon atmosphere and the mixture heated at 90° C. overnight. The reaction mixture was then cooled to room temperature, diluted with water (100 mL) and extracted with ethyl acetate (2×150 mL). The aqueous layer was acidified to pH 3-4 using 2N HCl solution and extracted with ethyl acetate (2×200 mL). The combined organic portions were dried over anhydrous sodium sulfate and concentrated. The residue was purified by column chromatography (silica gel, 20% methanol/dichloromethane) and the product containing fractions concentrated to give a solid, which was triturated with 2:1 heptane/ethyl acetate to give pure 6-(3-(tert-butoxycarbonyl)phenyl)-2-chloronicotinic acid (1.4 g, 67%) as an off-white foam. 1H NMR (400 MHz, CD3OD) δ ppm 8.64 (s, 1H), 8.34 (d, 1H), 8.29 (d, 1H), 8.04 (d, 1H), 7.95 (d, 1H), 7.59 (t, 1H), 1.60 (s, 9H); m/z 334 [M+H].

reactant | 2,6-Dichloronicotinic acid | 6.25 mmol, 1.20 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | 3-(tert-butoxycarbonyl)benzene boronic acid | 9.10 mmol, 2.08 g | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)B(O)O | C11H15BO4
reactant | potassium carbonate | 18.8 mmol, 2.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
solvent | water | 100 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.62 mmol, 0.72 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.5 mL | O | H2O
product | 6-(3-(tert-butoxycarbonyl)phenyl)-2-chloronicotinic acid | 1.4 g, 67% | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)C1=NC(=C(C(=O)O)C=C1)Cl | C17H16ClNO4
